US04237144
(±)6,7-Dichloro-2,3-dihydro-2-hydroxymethyl-5-(2-thenoyl)-benzofuran
To a stirred solution of (±) 6,7-dichloro-2,3-dihydro-5-(2-thenoyl)benzofuran-2-carboxylic acid (3.4 g., 0.01 mole) in tetrahydrofuran (50 ml.) at 0° C. is added the borane-tetrahydrofuran complex (25 ml., 0.00625 mole) over a one-half hour period. The reaction solution is stirred one hour at 0° C. and 18 hours at 25° C. The reaction solution is diluted with aqueous sodium bicarbonate (50 ml.) and the water layer is separated and the extracted twice with ether (two 20 ml. portions). The organic layers are combined, washed with brine (two 10 ml. portions), dried over magnesium sulfate and the solvents distilled at reduced pressure. The (±)6,7-dichloro-2,3-dihydro-2-hydroxymethyl-5-(2-thenoyl)benzofuran is purified by column chromatography on silica gel (95% benzene-5% methanol) and melts at 65°-8° C. (yield 21%).

reactant | (±) 6,7-dichloro-2,3-dihydro-5-(2-thenoyl)benzofuran-2-carboxylic acid | 0.01 mole, 3.4 g | ClC1=C(C2=C(CC(O2)C(=O)O)C=C1C(C1=CC=CS1)=O)Cl | C14H8Cl2O4S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
product | (±)6,7-Dichloro-2,3-dihydro-2-hydroxymethyl-5-(2-thenoyl)-benzofuran | yield 21% | ClC1=C(C2=C(CC(O2)CO)C=C1C(C1=CC=CS1)=O)Cl | C14H10Cl2O3S
